US08349893B2
The title compound, m/e=377.6 ([M−H]−), was produced in analogy with intermediate 1, steps 1 to 4. Thus, 1,8-octanediol was alkylated in step 1 with benzyl bromide, leading to 8-benzyloxy-octan-1-ol, which was oxidized in step 2 to 8-benzyloxy-octanoic acid. This was coupled in step 3 with (R)-3-amino-4-dimethylamino-butyric acid benzyl ester dihydrochloride to produce (R)-3-[8-benzyloxy)-octanoylamino]-4-dimethylamino-butyric acid benzyl ester, which was hydrogenated in step 4.

reactant | 1,8-octanediol | C(CCCCCCCO)O | C8H18O2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 8-benzyloxy-octan-1-ol | C(C1=CC=CC=C1)OCCCCCCCCO | C15H24O2
reactant | 8-benzyloxy-octanoic acid | C(C1=CC=CC=C1)OCCCCCCCC(=O)O | C15H22O3
reactant | (R)-3-amino-4-dimethylamino-butyric acid benzyl ester dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)OC(C[C@H](CN(C)C)N)=O
product | 4-dimethylamino-butyric acid benzyl ester | C(C1=CC=CC=C1)OC(CCCN(C)C)=O | C13H19NO2
